US05811459
4-[3-(3-Benzyloxy-8-oxo-5,6,7,8-tetrahydro-2-naphthyl)propyl]benzoic acid
To a solution of 4-[3-(3-benzyloxy-5,6,7,8-tetrahydro-2-naphthyl) propyl]benzoic acid (1.6 g) in ethyl acetate (50 ml) was added water (1 ml) and 2,3-dichloro-5,6-dicyanobenzoquinone (1.9 g). The mixture was stirred for 2 hours, the solvent evaporated and the residue subjected to chromatography on silica gel, eluting with 0.1% formic acid in EtOAc. The residue was purified by trituration with diethyl ether to give the title compound (0.3 g) mpt. 155°-160° C.

reactant | 4-[3-(3-benzyloxy-5,6,7,8-tetrahydro-2-naphthyl) propyl]benzoic acid | 1.6 g | C(C1=CC=CC=C1)OC=1C(=CC=2CCCCC2C1)CCCC1=CC=C(C(=O)O)C=C1 | C27H28O3
reactant | water | 1 ml | O | H2O
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 1.9 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-[3-(3-Benzyloxy-8-oxo-5,6,7,8-tetrahydro-2-naphthyl)propyl]benzoic acid | 0.3 g | C(C1=CC=CC=C1)OC=1C(=CC=2C(CCCC2C1)=O)CCCC1=CC=C(C(=O)O)C=C1 | C27H26O4
